US07435744B2
N-(4-Bromo-phenyl)-2-[4-(4-fluoro-benzyl)-piperidin-1-yl]-2-oxo-acetamide (45 70002307)
A mixture of 0.64 g (2.4 mmol) of [4-(4-fluoro-benzyl)piperidin-1-yl]-oxo-acetic acid, 0.34 ml (2.4 mmol) of triethylamine, 0.35 g (2 mmol) of 4-bromo-aniline (Aldrich), 0.91 g (2.4 mmol) of HBTU and 10 ml of dimethylformamide is stirred at room temperature for 24 hours. The reaction mixture is concentrated. Then 30 ml of 8% sodium hydrogencarbonate solution and 30 ml of chloroform is added to the mixture. The organic layer is separated and the water phase is extracted three times with 20 ml of chloroform. The combined organic layers are dried over sodium sulfate, concentrated. The residue is treated with diethylether and the crystals are filtered off to yield 0.36 g (43%) of the title compound. Melting Point: 156-158° C. (diethylether)

reactant | [4-(4-fluoro-benzyl)piperidin-1-yl]-oxo-acetic acid | 2.4 mmol, 0.64 g | FC1=CC=C(CC2CCN(CC2)C(C(=O)O)=O)C=C1 | C14H16FNO3
reactant | triethylamine | 2.4 mmol, 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-aniline | 2 mmol, 0.35 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | HBTU | 2.4 mmol, 0.91 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(4-Bromo-phenyl)-2-[4-(4-fluoro-benzyl)-piperidin-1-yl]-2-oxo-acetamide | 0.36 g, 43% | BrC1=CC=C(C=C1)NC(C(=O)N1CCC(CC1)CC1=CC=C(C=C1)F)=O | C20H20BrFN2O2
